US05104890
To an ice-cooled solution of 4-methoxybenzenesulfonyl chloride (25 g) in tetrahydrofuran (25 ml) was added dimethylamine (50% solution in water, 25 ml). After addition was complete, the mixture was stirred at 50° C. for 30 minutes. The reaction mixture was concentrated to give 4-methoxy-N,N-dimethylbenzenesulfonamide (38 g).

reactant | 4-methoxybenzenesulfonyl chloride | 25 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | dimethylamine | 25 ml | CNC | C2H7N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-methoxy-N,N-dimethylbenzenesulfonamide | 38 g | COC1=CC=C(C=C1)S(=O)(=O)N(C)C | C9H13NO3S
